US04414225
Ethyl 6-ethyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine-2-carboxylate hydrochloride
6.9 gm (0.0306 mol) of ethyl-5,6,7,8-tetrahydro-4H-thieno[2.3-d]azepine-2-carboxylate were dissolved in 60 ml of chloroform and 4.6 gm=6.4 ml (0.046 mol) of triethylamine, and the solution was heated to boiling. 5.5 gm=2.85 ml (0.035 mol) of ethyl iodide, dissolved in 10 ml of chloroform, were slowly added dropwise while stirring, and the mixture was heated for 3 hours more. After this time, another 1.3 ml of triethylamine and 0.57 ml of ethyl iodide were added. After another 2 hours of boiling, the same compounds were added again in the same quantities. After a total of 7 hours of heating the reaction was finished. The reaction mixture was allowed to cool, and was then extracted three times with water and dried over sodium sulfate. After the chloroform phase had been concentrated by evaporation in a rotary evaporator, 8 gm of a brown oil remained. By dissolving the oil in acetone and mixing the solution with ethereal hydrochloric acid the hydrochloride was precipitated which was then suction-filtered off and recrystallized from isopropyl alcohol.

reactant | ethyl-5,6,7,8-tetrahydro-4H-thieno[2.3-d]azepine-2-carboxylate | 0.0306 mol, 6.9 gm | C(C)OC(=O)C1=CC2=C(CCNCC2)S1 | C11H15NO2S
reactant | triethylamine | 0.046 mol, 6.4 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl iodide | 0.035 mol, 2.85 ml | C(C)I | C2H5I
reactant | triethylamine | 1.3 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl iodide | 0.57 ml | C(C)I | C2H5I
reactant | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 6-ethyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine-2-carboxylate hydrochloride | Cl.C(C)N1CCC2=C(CC1)C=C(S2)C(=O)OCC | InChI=1S/C13H19NO2S.ClH/c1-3-14-7-5-10-9-12(13(15)16-4-2)17-11(10)6-8-14;/h9H,3-8H2,1-2H3;1H
